US06677368B2
To a solution of 4-(4-fluoro-phenyl)-1,3-dihydro-indol-2-one (56.8 mg, 0.25 mmol) and 5-methyl-3-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (61.2 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 4-(4-fluoro-phenyl)-3-[5-methyl-3-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-1,3-dihydro-indol-2-one as a yellow solid (44.1 mg, 40%).

reactant | 4-(4-fluoro-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 56.8 mg | FC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C14H10FNO
reactant | 5-methyl-3-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.26 mmol, 61.2 mg | CC1=CC(=C(N1)C=O)C(=O)N1CCN(CC1)C | C12H17N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 4-(4-fluoro-phenyl)-3-[5-methyl-3-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-1,3-dihydro-indol-2-one | 44.1 mg, 40% | FC1=CC=C(C=C1)C1=C2C(C(NC2=CC=C1)=O)=CC=1NC(=CC1C(=O)N1CCN(CC1)C)C | C26H25FN4O2
